US06875864B2
A solution containing dimethyl-5-nitroisophthalate (23.9 g, 100 mmol) and ethanolamine (13.4 g, 220 mmol) in methanol (300 mL) was refluxed for 48 hours. The solvent was removed by evaporation under reduced pressure. The crude product was purified by crystallization from EtOAC:MeOH 1 ml v/v) to afford 20.0 g of pure N,N′-bis(2-hydroxyethyl)-5-nitro-1,3-benzenedicarboxamide as white crystals.

reactant | dimethyl-5-nitroisophthalate | 100 mmol, 23.9 g | COC(C1=CC(C(=O)OC)=CC(=C1)[N+](=O)[O-])=O | C10H9NO6
reactant | ethanolamine | 220 mmol, 13.4 g | C(O)CN | C2H7NO
solvent | methanol | 300 mL | CO | CH4O
product | N,N′-bis(2-hydroxyethyl)-5-nitro-1,3-benzenedicarboxamide | 20.0 g | OCCNC(=O)C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)NCCO | C12H15N3O6
